US07579469B2
A mixture of 3-chloro-5-trifluoromethylpyridin-2-ol (135 mg, 0.68 mmol) in 1 mL of EtOH was added to 0.13 mL of a 1M sodium ethoxide solution in ethanol and was heated to 85° C. for 5 minutes in a sealed vial. The mixture was cooled to room temperature, 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane was added, and the mixture heated to 85° C. overnight in a sealed vial. The volatiles were removed in vacuo and the residue diluted with water and extracted with EtOAc. The organic extracts were combined, dried over sodium sulfate and concentrated in vacuo. The residue was purified on PLC plate (hexanes-EtOAc (8:2)) to give 125 mg of 3-chloro-1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-5-trifluoromethyl-1H-pyridin-2-one as a solid.

reactant | 3-chloro-5-trifluoromethylpyridin-2-ol | 0.68 mmol, 135 mg | ClC=1C(=NC=C(C1)C(F)(F)F)O | C6H3ClF3NO
reactant | sodium ethoxide | 1M | [O-]CC.[Na+]
reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-5-trifluoromethyl-1H-pyridin-2-one | 125 mg | ClC=1C(N(C=C(C1)C(F)(F)F)CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O | C20H19ClF7NO3
